US06826033B2
A solution of N-[4-[(2S)-2-[N-benzyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-3-hydroxypropyl]phenyl]-N′-ethylurea (73 mg) in methanol (1.5 ml) was hydrogenated (1 atm) over 10% palladium on carbon (11 mg) at room temperature for 12 hours. After the catalyst was filtered off, the filtrate was concentrated and the residue was purified by column chromatography (silica gel, chloroform/methanol) followed by recrystallization from ehtanol/hexane to give N-ethyl-N′-[4-[(2S)-3-hydroxy-2-[[(2S)-2-hydroxy-3-phenoxypropyl]amino]-propyl]phenyl]urea (38 mg) as a white powder.

reactant | N-[4-[(2S)-2-[N-benzyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-3-hydroxypropyl]phenyl]-N′-ethylurea | 73 mg | C(C1=CC=CC=C1)N(C[C@@H](COC1=CC=CC=C1)O)[C@@H](CC1=CC=C(C=C1)NC(=O)NCC)CO | C28H35N3O4
solvent | methanol | 1.5 ml | CO | CH4O
catalyst | palladium on carbon | 11 mg | [Pd] | Pd
product | N-ethyl-N′-[4-[(2S)-3-hydroxy-2-[[(2S)-2-hydroxy-3-phenoxypropyl]amino]-propyl]phenyl]urea | 38 mg | C(C)NC(=O)NC1=CC=C(C=C1)C[C@@H](CO)NC[C@@H](COC1=CC=CC=C1)O | C21H29N3O4
